2156-12-02 09:31:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   seen by interventional pulmonary
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   asa 81
   lasix 40 qday
   heparin 5000 tid
   albuterol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-2**] 09:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**58**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98
   HR: 99 (76 - 112) bpm
   BP: 114/74(82) {99/60(71) - 135/108(111)} mmHg
   RR: 21 (14 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  200 mL
   PO:
                  200 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    175 mL
                                                                    795 mL
   Urine:
                                                                    175 mL
                                                                    795 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -175 mL
                                                                   -595 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Unstable Airway
   PIP: 0 cmH2O
   SpO2: 95%
   ABG: ///45/
   Ve: 4.2 L/min
   Physical Examination
   General Appearance: Well nourished, scoliosis
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: No(t) Normocephalic, Poor dentition
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): ,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   11.9 g/dL
   277 K/uL
   119 mg/dL
   0.4 mg/dL
   45 mEq/L
   3.7 mEq/L
   7 mg/dL
   91 mEq/L
   141 mEq/L
   38.0 %
   5.4 K/uL
        [image002.jpg]
                             [**2156-12-2**]  12:26 AM
   WBC
   5.4
   Hct
   38.0
   Plt
   277
   Cr
   0.4
   Glucose
   119
   Other labs: PT / PTT / INR:11.8//1.0, Ca++:9.0 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.2 mg/dL
   Assessment and Plan
   1./ hypercarbic respiratory failure:
    - IP service following
    - likely bronch this morning, with potential replacement of trach
    - will cont to follow
    - cont albuterol nebs as needed
    - npo for now
   2. Reflux: cont scoliosis
   3. pain: minimal, holding narcotic
   4. pHTN: cont lasix for diuresis
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2156-12-2**] 06:10 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: Mouth care
   Comments:
   Communication: ICU consent signed Comments:
   Code status:
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2156-12-03 07:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - bronched in morning by IP: supraglottic edema -> started PPI.
   occlusion of airway during expiration by posterior larynx ->
   tracheostomy tube was advanced by 1 cm with better airway patency
   established.
   - put on PS 10/5 while sleeping during day. overnight on vent from 12
   am to 4 am, then on trach collar
   - case mmgnt: should return to OSH vs begin screening for rehab
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2156-12-2**] 08:18 PM
   Heparin Sodium (Prophylaxis) - [**2156-12-2**] 11:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-3**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**58**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (98.9
   HR: 92 (71 - 115) bpm
   BP: 124/88(96) {103/62(71) - 150/123(126)} mmHg
   RR: 22 (17 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    720 mL
                  PO:
                                                                    720 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  3,820 mL
                                                                    275 mL
   Urine:
                                                                  3,820 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,100 mL
                                                                   -275 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 323 (323 - 325) mL
   PS : 10 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///41/
   Ve: 9.7 L/min
   Physical Examination
   Trached, on trach mask, sitting in a chair
   Severe scoliosis, slgith erosis on neck from trach
   Abnormal resioatory movements
   Distant heart sounds, tachycardic, no m/r/g
   Abdominal ventral, soft, ntnd
   1+ LE b/l
   Labs / Radiology
   308 K/uL
   12.1 g/dL
   103 mg/dL
   0.4 mg/dL
   41 mEq/L
   4.1 mEq/L
   7 mg/dL
   94 mEq/L
   141 mEq/L
   38.2 %
   5.4 K/uL
        [image002.jpg]
                             [**2156-12-2**]  12:26 AM
                             [**2156-12-3**]  04:45 AM
   WBC
   5.4
   5.4
   Hct
   38.0
   38.2
   Plt
   277
   308
   Cr
   0.4
   0.4
   Glucose
   119
   103
   Other labs: PT / PTT / INR:11.8//1.0, Ca++:8.9 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
   The patient is a 49 year old male with a history of severe scoliosis,
   restrictive lung disease, OSA, who presented to an OSH with worsening
   dyspnea, who developed hypercapnic respiratory failure w/ semi-emergent
   tacheostomy placement, now transfered for evaluation of posterior wall
   erosion.
    # Hypercapnic respiratory failure: likely secondary to both
   restrictive lung process due to severe scoliosis with additonal OSA.
   Now status post tracheostomy placement with revision due to hypoxemia
   with trach blockage.  Patient has been using trach valve during the day
   and CMV at night.  Transfered for evaluation of posterior trach
   erosion.
   - continue vent settings as per [**Location (un) 839**]
   - discourange ambient use
   - IP c/s in am
   - cont guafenisin and duoneb
   - check baseline CXR here
   - encourage weight loss and ? pulm rehab on discharge.
   # Severe Scoliosis:
   - cont protonix
   - tylenol for pain, holding narcotics from OSH as is not part of home
   regimen.
   # RV failure: likely due to mod pHTN (45mmHg) in the setting of OSA.
   Mild reduced RV function.
   - cont home lasix
   - TEDS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2156-12-2**] 06:10 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2156-12-03 11:20:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -IP performed FOB, evaluation of trache
   -Ventilated overnight
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2156-12-2**] 08:18 PM
   Heparin Sodium (Prophylaxis) - [**2156-12-3**] 07:50 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-3**] 11:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**58**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.1
   HR: 92 (71 - 115) bpm
   BP: 128/80(87) {103/62(71) - 150/123(126)} mmHg
   RR: 20 (17 - 26) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                    720 mL
                                                                    100 mL
   PO:
                                                                    720 mL
                                                                    100 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  3,820 mL
                                                                  1,075 mL
   Urine:
                                                                  3,820 mL
                                                                  1,075 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,100 mL
                                                                   -975 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 323 (323 - 325) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: ///41/
   Ve: 9.7 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, trache tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: No(t) Symmetric), (Breath Sounds:
   Diminished: ), severe kyphoscoliosis
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.1 g/dL
   308 K/uL
   103 mg/dL
   0.4 mg/dL
   41 mEq/L
   4.1 mEq/L
   7 mg/dL
   94 mEq/L
   141 mEq/L
   38.2 %
   5.4 K/uL
        [image002.jpg]
                             [**2156-12-2**]  12:26 AM
                             [**2156-12-3**]  04:45 AM
   WBC
   5.4
   5.4
   Hct
   38.0
   38.2
   Plt
   277
   308
   Cr
   0.4
   0.4
   Glucose
   119
   103
   Other labs: PT / PTT / INR:11.8//1.0, Ca++:8.9 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
   1. hypercarbic respiratory failure:
    - restrictive lung disease in setting of severe scoliosis and OSA
    - likely exacerbated with recent significant weight gain
    - IP performed FOB/airway evaluation
        -no posterior membrane erosion
        -trache adjusted
    - nocturnal ventilation ongoing
   2. Reflux:
    - cont tx scoliosis
   3. pain:
    - minimal, holding narcotic
   4. pHTN:
    - cont lasix for diuresis
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :Transfer to other facility
   Total time spent:

2156-12-04 07:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - attempted transfer back to [**Location (un) 839**]; no  beds available so will call in
   AM, they will take him back there
   - c/o dyspnea in AM, increase po furosemide to TID with good effect
   - c/o in chest pain in the middle of the night, checked ECG, no acute
   changes.  CP resolved on its own
   - did not use the vent overnight; only trach collar
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-12-3**] 07:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-4**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**58**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.2
   HR: 100 (79 - 103) bpm
   BP: 119/77(85) {104/66(78) - 154/92(102)} mmHg
   RR: 26 (16 - 27) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                    790 mL
                                                                    450 mL
   PO:
                                                                    790 mL
                                                                    450 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  4,390 mL
                                                                  1,330 mL
   Urine:
                                                                  4,390 mL
                                                                  1,330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,600 mL
                                                                   -880 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 230 (230 - 439) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 12 cmH2O
   SpO2: 95%
   ABG: ////
   Ve: 6.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   308 K/uL
   12.1 g/dL
   103 mg/dL
   0.4 mg/dL
   41 mEq/L
   4.1 mEq/L
   7 mg/dL
   94 mEq/L
   141 mEq/L
   38.2 %
   5.4 K/uL
        [image002.jpg]
                             [**2156-12-2**]  12:26 AM
                             [**2156-12-3**]  04:45 AM
   WBC
   5.4
   5.4
   Hct
   38.0
   38.2
   Plt
   277
   308
   Cr
   0.4
   0.4
   Glucose
   119
   103
   Other labs: PT / PTT / INR:11.8//1.0, Ca++:8.9 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.6 mg/dL
   Imaging: Lung volumes have decreased and opacification particularly in
   the right lung has increased since [**12-1**]. Given the marked
   anatomic distortion of the chest precise diagnosis is difficult, but
   since there is vascular engorgement in the left lung I suspect cardiac
   decompensation is playing a role. There is also the suggestion of
   retained secretions in the bronchial tree, particularly the right.
   Right pleural effusion has probably developed and whether the
   right lower lung is atelectatic or consolidated is radiographically
   indeterminate, as is the extent of presumed cardiomegaly. No
   pneumothorax is
   present.
   Assessment and Plan
   The patient is a 49 year old male with a history of severe scoliosis,
   restrictive lung disease, OSA, who presented to an OSH with worsening
   dyspnea, who developed hypercapnic respiratory failure w/ semi-emergent
   tacheostomy placement, now transfered for evaluation of posterior wall
   erosion.
    # Hypercapnic respiratory failure: likely secondary to both
   restrictive lung process due to severe scoliosis with additonal OSA.
   Now status post tracheostomy placement with revision due to hypoxemia
   with trach blockage.  Patient has been using trach valve during the day
   and CMV at night.  Transfered for evaluation of posterior trach
   erosion, trach repositioned b IP.
   - continue vent settings over night, w/ valve during the day.  Although
   pt can talk around valve, which may portend need for trach replacement.
   - discourange ambient use
   - will d/w IP switch to non-flexible valve
   - cont guafenisin and duoneb
   - reduce lasix to [**Hospital1 **]
   - encourage weight loss and ? pulm rehab on discharge.
   # Severe Scoliosis:
   - cont protonix
   - tylenol for pain, holding narcotics from OSH as is not part of home
   regimen.
   # RV failure: likely due to mod pHTN (45mmHg) in the setting of OSA.
   Mild reduced RV function.
   - cont home lasix
   - TEDS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2156-12-3**] 01:41 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-12-04 10:27:00 Physician Attending Progress Note
Chief Complaint: Trach occlusion
   I saw and examined the patient, and was physically present with the ICU
   resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.  PMH, SH, FH and ROS are
   unchanged from admission except where noted above.
   HPI: 49 yo man with severe scoliosis. Initially admitted to [**Hospital **]
   hospital  [**2155-11-20**] with increasing dyspnea, with hypercarbic respiratory
   failure requiring semi-urgent tracheostomy.  Transferred to [**Hospital1 1**] for
   trach occlusion, now sp advancement of trach 1cm.
   24 Hour Events:
   -no further issues with occlusion of tracheostomy
   -[**Last Name (un) 2523**] [**Street Address(2) 10444**] currently, on AC overnight and TCM with intermittent
   use of [**Street Address(2) 4579**] during the day
   -lasix increased yesterday for volume overload on CXR, net out 3.6L
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Lasix 40 IV TID
   Protonix
   ASA
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-4**] 10:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**58**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.8
   HR: 98 (79 - 103) bpm
   BP: 104/65(74) {104/65(74) - 154/102(111)} mmHg
   RR: 18 (16 - 27) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                    790 mL
                                                                    930 mL
   PO:
                                                                    790 mL
                                                                    930 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  4,390 mL
                                                                  1,330 mL
   Urine:
                                                                  4,390 mL
                                                                  1,330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,600 mL
                                                                   -400 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 230 (230 - 439) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 12 cmH2O
   SpO2: 97%
   ABG: ////
   Ve: 6.4 L/min
   Physical Examination
   General Appearance: Thin.  Severe scoliosis.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: inspiratory and expiratory wheezing
   Extremities: 2+ symmetrical LE edema
   Skin:  Not assessed
   Neurologic: alert and oriented x3
   Labs / Radiology
   12.1 g/dL
   308 K/uL
   103 mg/dL
   0.4 mg/dL
   41 mEq/L
   4.1 mEq/L
   7 mg/dL
   94 mEq/L
   141 mEq/L
   38.2 %
   5.4 K/uL
        [image002.jpg]
                             [**2156-12-2**]  12:26 AM
                             [**2156-12-3**]  04:45 AM
   WBC
   5.4
   5.4
   Hct
   38.0
   38.2
   Plt
   277
   308
   Cr
   0.4
   0.4
   Glucose
   119
   103
   Other labs: PT / PTT / INR:11.8//1.0, Ca++:8.9 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.6 mg/dL
   Imaging: CXR:
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   -still has adjustable [**Last Name (un) 2523**], doing well during the day and requires
   ventilator at night.  Will ask IP if we can change to non-adjustable
   trach as position of trach has moved overnight
   -speaking without using [**Last Name (LF) 4579**], [**First Name3 (LF) 116**] keep [**First Name3 (LF) 4579**] off for now
   -decrease lasix to [**Hospital1 **] dosing
Pulmonary hypertension likely due to restrictive lung disease
   -continue lasix
   ADDENDUM
   Trach changed to [**Last Name (un) 2523**] 110mm, size 7. Tip approximately 1cm above the
   carina. Uncomplicated. Severe subglottic edema noted. Pt indicated that
   he felt much more comfortable with the new trach in place. Doing well
   on trach collar for > 1 hour.
   ICU Care
   Nutrition: regular diet
   Glycemic Control:  RISS
   Lines:
   22 Gauge - [**2156-12-3**] 01:41 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: Protonix
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition :Transfer to [**Hospital 839**] hospital. F/U as outpatient with
   Interventional Pulmonary service, Dr [**First Name8 (NamePattern2) **] [**Name (STitle) 1607**].
   Total time spent: